US09029370B2
To a stirred solution of trifluoroacetic acid (216 μl) in water (4.5 ml) was added a solution of (R)-2-{4-[3-(3-cyano-phenyl)-ureido]-3-fluoro-phenyl}-morpholine-4-carboxylic acid tert-butyl ester (85 mg) in acetonitrile (2 ml). The reaction mixture was then capped and the mixture was shaken at 80° C. for 3 h. The reaction mixture was then cooled to room temperature and poured into 1 M aq. NaOH and the resulting mixture was extracted twice with EtOAc. The organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (Isolute® Flash-NH2 from Separtis); gradient: heptane/EtOAc/MeOH) to afford 1-(3-cyano-phenyl)-3-((R)-2-fluoro-4-morpholin-2-yl-phenyl)-urea (45 mg, 61%) as a white solid. MS (ISP): 341.1 ([M+H]+).

reactant | trifluoroacetic acid | 216 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-2-{4-[3-(3-cyano-phenyl)-ureido]-3-fluoro-phenyl}-morpholine-4-carboxylic acid tert-butyl ester | 85 mg | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C1=CC(=C(C=C1)NC(=O)NC1=CC(=CC=C1)C#N)F | C23H25FN4O4
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | water | 4.5 ml | O | H2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-(3-cyano-phenyl)-3-((R)-2-fluoro-4-morpholin-2-yl-phenyl)-urea | 45 mg, 61% | C(#N)C=1C=C(C=CC1)NC(=O)NC1=C(C=C(C=C1)[C@@H]1CNCCO1)F | C18H17FN4O2
